US05175166
2-Amino-3,4,5,6-tetrahydropyridine-5-carboxylic acid HCL
2-Amino-5-methoxycarbonylpyridine (0.912 g, 6.6 mmol) was dissolved in 90% ethanol (137 ml) and conc. HCl (3.5 ml, 40 mmol) was added. The solution was hydrogenated over PtO2 (200 mg) in a Parr shaker apparatus at room temperature and 29 psig for 2 hours. Filtration and evaporation gave 1.05 g (89%) crude white crystals identified as the product by 400 MHz nmr and ir 3350, 3011, 1714 cm-1.

reactant | 2-Amino-5-methoxycarbonylpyridine | 6.6 mmol, 0.912 g | NC1=NC=C(C=C1)C(=O)OC | C7H8N2O2
reactant | HCl | 40 mmol, 3.5 ml | Cl | ClH
solvent | ethanol | 137 ml | C(C)O | C2H6O
catalyst | PtO2 | 200 mg | O=[Pt]=O
product | 2-Amino-3,4,5,6-tetrahydropyridine-5-carboxylic acid HCL | 1.05 g, 89% | Cl.NC1=NCC(CC1)C(=O)O | InChI=1S/C6H10N2O2.ClH/c7-5-2-1-4(3-8-5)6(9)10;/h4H,1-3H2,(H2,7,8)(H,9,10);1H
